US06075106
A solution of bis-(6-hydroxyhexyl) malonate in 1,6-hexanediol is prepared on heating a mixture of 21.6 g (0.15 mol) of Meldrum's acid, 59 g (0.50 mol) of 1,6-hexanediol and 0.28 g (1.5 mmol) of p-toluene-sulphonic acid monohydrate for 2 hours at 140° C.

reactant | Meldrum's acid | 0.15 mol, 21.6 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | p-toluene-sulphonic acid monohydrate | 1.5 mmol, 0.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | 1,6-hexanediol | 0.50 mol, 59 g | C(CCCCCO)O | C6H14O2
product | bis-(6-hydroxyhexyl) malonate | C(CC(=O)OCCCCCCO)(=O)OCCCCCCO | C15H28O6
